US07425641B2
b. 2-[5-(N-benzoyl-carbamimidoyl)-2-hydroxy-phenyl]-N-[3-methyl-4-(pyrrolidin-1-yl-carbonyl)-phenyl]-acetamide
Prepared analogously to Example 5h from 2-[5-(N-benzoyl-carbamimidoyl)-2-benzyloxy-phenyl]-N-[3-methyl-4-(pyrrolidin-1-yl-carbonyl)-phenyl]-acetamide and hydrogen/palladium on activated charcoal.

reactant | 2-[5-(N-benzoyl-carbamimidoyl)-2-benzyloxy-phenyl]-N-[3-methyl-4-(pyrrolidin-1-yl-carbonyl)-phenyl]-acetamide | C(C1=CC=CC=C1)(=O)NC(=N)C=1C=CC(=C(C1)CC(=O)NC1=CC(=C(C=C1)C(=O)N1CCCC1)C)OCC1=CC=CC=C1 | C35H34N4O4
catalyst | hydrogen palladium on activated charcoal | [H][H].[Pd]
product | 2-[5-(N-benzoyl-carbamimidoyl)-2-hydroxy-phenyl]-N-[3-methyl-4-(pyrrolidin-1-yl-carbonyl)-phenyl]-acetamide | C(C1=CC=CC=C1)(=O)NC(=N)C=1C=CC(=C(C1)CC(=O)NC1=CC(=C(C=C1)C(=O)N1CCCC1)C)O | C28H28N4O4
